US07262212B2
m-Chloroperbenzoic acid (2.5 g, 10.1 mmol) was added to a solution of 2-methyl-2-propenyl N-(4-chlorophenyl)-N-methylcarbamate (1.78 g, 6.7 mmol) in methylene chloride (20 ml) while cooling in an ice-bath, and the mixture was stirred at room temperature for 6.5 hours. To which sodium thiosulfate aqueous solution was added and the mixture was filtered, and sodium hydrogencarbonate aqueous solution was added to the filtrate. The organic layer was separated, dried over magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride/methanol=20/1) to afford (2-methyl-2-oxiranylmethyl) N-(4-chlorophenyl)-N-methylcarbamate (1.7 g, quantitative) as a pale yellow oil.

reactant | m-Chloroperbenzoic acid | 10.1 mmol, 2.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-methyl-2-propenyl N-(4-chlorophenyl)-N-methylcarbamate | 6.7 mmol, 1.78 g | ClC1=CC=C(C=C1)N(C(OCC(=C)C)=O)C | C12H14ClNO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (2-methyl-2-oxiranylmethyl) N-(4-chlorophenyl)-N-methylcarbamate | 1.7 g | ClC1=CC=C(C=C1)N(C(OCC1(OC1)C)=O)C | C12H14ClNO3
